Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Lamictal / Penicillins
 
Attending: ___.
 
Chief Complaint:
seizure
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ PMH temporal lobe epilepsy and schizophrenia who presents
with altered mental status.

Per the ED dash her husband reports that she was at her mental
baseline this AM, but then had an episode of "repetitive eye
blinking, shaking of the right hand as well as rocking movements
backwards and forwards. This lasted a few minutes, and the
patient then became confused, which has been unchanged since the
event." Basic labs and a tox screen (negative) were obtained.
Psychiatry and neurology were both consulted, with comments in
the ED dash as follows:

Neurology:
"Patient seen and examined. She is well known to the neurology
service, recently discharged on clobazam 20mg BID. Spoke with 
the
family extensively, it is hard to know how much she is truly
taking daily. 

 On exam, she is back to baseline completely. Awake, alert,
asnwers questions when she wants to, speaking fluently no
paraphasic errors, moving all four extremities symmetrically. CN
intact. 

 PLAN: 
 1. Treat UTI with abx , follow up urine culture
 2. Check Clobazam level. 
 3. Continue clobazam 20mg BID. Due for evening dose now. 
 4. No need for EEG as patient is neurologically back to
baseline. Suspect breakthrough seizures from med non compliance 
+
UTI 
 5. Will email again for outpatient neurology f/u 
 6. Dispo per ED 

 ___
 ___
 Pager ___
 ==================
 Re-evaluated pt after medicine team expressed concern that pt
was still having breakthrough events and not back to baseline.
Spoke with RN who reports that prior to administration of ___ 
meds
around 8pm, had a staring spell lasting for several seconds,
without other clear epileptic features. Evenings medications
including clobazam were given and pt has not had further
episodes. Pt at baseline since receiving clobazam.

On exam she remains at her neurologic baseline and has no focal
deficits. no concern for ongoing subclinical seizures 
 
I called husband to attempt to obtain additional history of any
other concerning events but no answer at this time.
 
- Recommend re-evaluation with ED regarding whether admission is
necessary. If admission is necessary, agree with Medicine
placement as there are no concerns for ongoing seizure activity,
would not change/titrate AEDs, would not recommend cEEG, and pt
is at neurologic baseline 
- Regardless, would NOT change home AEDs at this time as her
breakthrough seizure was likely provoked in setting of
noncompliance and UTI.
- If discharged, will need neurology f/u - this had been
previously arranged but appointments were cancelled. We can
arrange for urgent epilepsy f/u or neuro-urgent care
___ MD
PGY4 Neurology"

Psychiatry:
"Patient has history of medication noncompliance and will likely
refuse antibiotics. Could consider a medical admission if
indicated for treatment of UTI associated with breakthrough
seizures. 
 - Patient does not meet ___ criteria
 Agree with recommendations per neurology: 
 - f/u with Clobazam level. 
 - Coat UTI
 - ___ offer lorazepam 1 mg PO Q6ntinue clobazam 20 mg BID
 - Would treH PRN: agitation, anxiety or
 insomnia
 ___

Given concern that her mental status was significantly off of 
her
baseline, she was admitted to medicine for further workup and
management.

On arrival to the floor she reports that she is feeling well.
When asked if she knows why she is here she said "My children 
got
together and brought me here for a social reason". When asked to
further clarify what that means she said "___ is rather old to
bear children". When asked if she knows how she got here she 
said
"I ate, I slept, and now I am here." She stated she has no
symptoms that are bothering her. She then said that her husband
is helping her to fund a new ___ company she wants to
start and handed me a folder of papers from a bag filled with
other papers. The folder of papers is for the manuscript she is
working on that she says she has sent to multiple publishers and
friends. She suggested calling the publishing company in ___ to
learn more about it. The folder contained photocopies of 
excerpts
from various religious texts with her annotations as well as
things she had written herself. One page that she said she had
written herself contained multiple lines where each line had the
following structure: population of a country, name of the
country, the word "trump", followed by the name of one or two
animal species. When asked to clarify what this means she said
her father studied animal people so she was writing about this
but can't further elaborate because she is not entirely sure 
what
he studied. When asked about any somatic symptoms for review of
systems she repeatedly said "I feel fine".

Of note, she was recently admitted ___ for altered mental
status to the neurology service and was discharged to an
inpatient psychiatric facility.

REVIEW OF SYSTEMS:
Per HPI

 
Past Medical History:
Schizophrenia
Temporal lobe epilepsy
 
Social History:
___
Family History:
Patient denies any family history of seizure or stroke. 
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
VITALS: 24 HR Data (last updated ___ @ 300)
    Temp: 98.3 (Tm 98.3), BP: 130/82, HR: 106, RR: 18, O2 sat:
96%, O2 delivery: Ra
GENERAL: Alert, sitting up in chair
HEENT: NC, AT, EOMI
NECK: refused
CARDIAC: refused
LUNGS: refused, breathing comfortably, symmetric chest rise
BACK: refused
ABDOMEN: refused
EXTREMITIES: refused
NEUROLOGIC: AAOx3 (knew year, where she was, her name), able to
appropriately name objects ___ and television). Fluent speech
but abnormal sentence structure with seemingly unconnected
thoughts strung together. Moving all 4 extremities spontaneously
and with purpose

DISCHARGE PHYSICAL EXAM:
GENERAL: Alert, sitting up in chair
HEENT: NC, AT, EOMI
CARDIAC: refused
LUNGS: refused, breathing comfortably, symmetric chest rise
BACK: refused
ABDOMEN: refused
EXTREMITIES: refused
NEUROLOGIC: AAOx3 (knew year, where she was, her name), able to
appropriately name objects ___ and television). Fluent speech
but abnormal sentence structure with seemingly unconnected
thoughts strung together. Moving all 4 extremities spontaneously
and with purpose
 
Pertinent Results:
LABS
====
___ 03:36PM BLOOD WBC-9.8 RBC-3.76* Hgb-8.7* Hct-29.8* 
MCV-79* MCH-23.1* MCHC-29.2* RDW-16.9* RDWSD-48.2* Plt ___
___ 03:36PM BLOOD Glucose-127* UreaN-16 Creat-0.7 Na-141 
K-4.1 Cl-104 HCO3-21* AnGap-16
___ 03:36PM BLOOD Calcium-9.1 Phos-3.0 Mg-2.1
___ 03:36PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG
___ 03:00PM URINE Color-Yellow Appear-Clear Sp ___
___ 03:00PM URINE Blood-NEG Nitrite-NEG Protein-30* 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-LG*
___ 03:00PM URINE RBC-7* WBC-19* Bacteri-NONE Yeast-NONE 
Epi-<1 TransE-<1
___ 03:00PM URINE Mucous-FEW*
___ 03:00PM URINE bnzodzp-NEG barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-NEG oxycodn-NEG mthdone-NEG

      URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH SKIN
      AND/OR GENITAL CONTAMINATION. 
 
Brief Hospital Course:
Ms. ___ is a ___ F with PMHx of temporal lobe epilepsy 
and schizophrenia who presents with change from baseline mental 
status and concern for breakthrough seizures.

TRANSITIONAL ISSUES
===================
[] should patient develop s/s of UTI, please treat as needed
[] please ensure patient follows up with neurology for her 
epilepsy
[] continue q2 weekly risperidone injections (per husband next 
due ___ 
[] ___ level may be indicated in the future. Patient 
refused repeat blood draw prior to discharge but ok per 
neurology.

ACUTE ISSUES
============
#Altered mental status
Suspect post-ictal phase secondary to seizures as below +/- 
possible worsening of schizophrenia in period of stress 
(multiple family members coming to ___ dinner). The day 
after discharge the patient was at her baseline mental status 
per her husband. She was without evidence of infection. Overall 
UA equivocal and patient has a hx of sterile pyuria, so she was 
not treated for UTI. 

#Seizure disorder
Patient presented after a witnessed episode of rhythmic eye 
blinking, shaking of R hand and rocking movements back and 
forth. This lasted a few minutes and then she was confused for a 
short period. She was brought to the ER where she had two more 
witnessed events, lasting ___ minutes and complete return to 
baseline in-between each event. These symptoms likely 
represented breakthrough seizures, either in the setting of 
medication noncompliance (not clear if patient might be spitting 
out her clobazam after her husband gives it to her) vs increased 
stress. Patient is without any infectious signs or symptoms, UA 
is equivocal and pt has history of sterile pyuria. Per husband, 
the patient returned to baseline (which includes being paranoid 
and delusional) following these episodes. 

Patient was seen by neurology who recommended checking clobazam 
level, continuing home clobazam 20mg BID with outpatient follow 
up. We were unable to check clobazam level as patient refused 
blood draw and husband understood risks/benefits of this. 

#Schizophrenia
Patient was seen by psychiatry who felt that the patient was at 
her baseline and that she did not meet criteria for ___. 
She was discharged with plan to continue her q2 weeks 
risperidone injection (last ___, next ___. 

CORE MEASURES
=============
#CODE: Full, presumed
#CONTACT: ___ (husband-guardian) ___
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Clobazam 20 mg PO BID 
2. RisperiDONE Long Acting Injection 50 mg IM EVERY 2 WEEKS (FR) 

3. TraZODone 50 mg PO QHS:PRN insomnia 

 
Discharge Medications:
1.  Clobazam 20 mg PO BID  
2.  RisperiDONE Long Acting Injection 50 mg IM EVERY 2 WEEKS 
(FR)  
3.  TraZODone 50 mg PO QHS:PRN insomnia  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
=================
Epilepsy
Schizophrenia

 
Discharge Condition:
Mental Status: Clear and coherent, though with apparent 
delusions 
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___, 
 
It was a pleasure caring for you at ___ 
___.  
 
WHY WAS I IN THE HOSPITAL?  
 - You were admitted for a seizure and a change in your mental 
status 
 
WHAT HAPPENED TO ME IN THE HOSPITAL?  
 - While you were in the hospital, you were seen by our 
neurology and psychiatry teams who felt you were safe to go home 


 - We continued your home anti-seizure medications at the same 
dose
 
WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?  
 - Continue to take all your medicines and keep your 
appointments.  
 
We wish you the best!  
 
Sincerely,  
Your ___ Team  
 
Followup Instructions:
___